US06797726B1
In 8 mL of 90% methanol is suspended 0.16 g of sodium boron hydride. At an ice-cooled temperature, a solution of 1.45 g of 2-benzo[b]thiophen-4-ylacetaldehyde in 6 mL of methanol is dropwise added to the suspension obtained above, and the resulting mixture is stirred at ambient temperature for 30 minutes. Water and ethyl acetate are added to the reaction mixture, pH is adjusted to 2.0 with 6 mol/L hydrochloric acid, and the organic layer is separated. The organic layer is washed with saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate, the solvent is distilled off under reduced pressure, and the residue is purified by column chromatography (eluent: toluene:ethyl acetate=50:1 to 2:1) to obtain 0.88 g of 2-benzo[b]-thiophen-4-yl-1-ethanol.

reactant | sodium boron hydride | 0.16 g | B.[Na]
reactant | 2-benzo[b]thiophen-4-ylacetaldehyde | 1.45 g | S1C2=C(C=C1)C(=CC=C2)CC=O | C10H8OS
reactant | Water | O | H2O
reactant | hydrochloric acid | 6 mol/L | Cl | ClH
solvent | methanol | 8 mL | CO | CH4O
solvent | methanol | 6 mL | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-benzo[b]-thiophen-4-yl-1-ethanol | 0.88 g | S1C2=C(C=C1)C(=CC=C2)CCO | C10H10OS
